US07005432B2
5-[3-(1,1-Difluoro-ethyl)-4-fluoro-phenyl]-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine hydrochloride
The title compound, MS: m/e=333.3 (M+H+), was prepared from 2-[3-(1,1-difluoro-ethyl)-4-fluoro-phenyl]-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane and 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine.

reactant | 2-[3-(1,1-difluoro-ethyl)-4-fluoro-phenyl]-4,4,5,5-tetramethyl-[1,3,2]dioxaborolane | FC(C)(F)C=1C=C(C=CC1F)B1OC(C(O1)(C)C)(C)C | C14H18BF3O2
reactant | 5-chloro-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine | ClC=1C=C(N=NC1)CN1C(=NC=C1)C | C9H9ClN4
product | 5-[3-(1,1-Difluoro-ethyl)-4-fluoro-phenyl]-3-(2-methyl-imidazol-1-yl-methyl)-pyridazine hydrochloride | Cl.FC(C)(F)C=1C=C(C=CC1F)C=1C=C(N=NC1)CN1C(=NC=C1)C | InChI=1S/C17H15F3N4.ClH/c1-11-21-5-6-24(11)10-14-7-13(9-22-23-14)12-3-4-16(18)15(8-12)17(2,19)20;/h3-9H,10H2,1-2H3;1H
